*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 3.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_0 1 2 3 4 REF
C_C1 1 REF 0.6043081167219pf
C_C2 1 2 13.575826404561pf
C_C3 1 3 0.019453694146pf
C_C4 1 4 0.1854496846372pf
C_C5 2 REF 1.6980199430523pf
C_C6 2 3 0.0976188442177pf
C_C7 3 REF 0.3756701652571pf
C_C8 3 4 7.4401936153325pf
C_C9 4 REF 0.3798159720417pf
L_L1 3 5 1.3045410257954nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_1 1 2 3 4 REF
C_C1 1 REF 0.457016564621pf
C_C2 1 2 13.839601478817pf
C_C3 1 3 0.018613146722pf
C_C4 1 4 0.1870332966862pf
C_C5 2 REF 1.3495750746329pf
C_C6 2 3 0.0981191701638pf
C_C7 3 REF 0.3760104422335pf
C_C8 3 4 5.5282161954787pf
C_C9 4 REF 0.3788127331858pf
R_R1 1 2 871.66924435793
L_L1 3 5 1.3060972025279nh
R_RL1 5 4 2.5433750977e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_2 1 2 3 4 REF
C_C1 1 REF 0.3661701093773pf
C_C2 1 2 14.102286058613pf
C_C3 1 3 0.0177393273445pf
C_C4 1 4 0.1893230894875pf
C_C5 2 REF 1.0996338621899pf
C_C6 2 3 0.0986860516299pf
C_C7 3 REF 0.3763216896996pf
C_C8 3 4 4.1921650804207pf
C_C9 4 REF 0.3777896565528pf
R_R1 1 2 867.31067520934
L_L1 3 5 1.307394099717nh
R_RL1 5 4 1.6219688177e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_3 1 2 3 4 REF
C_C1 1 REF 0.3014780332714pf
C_C2 1 2 14.45037879406pf
C_C3 1 3 0.0165936348767pf
C_C4 1 4 0.1930451651266pf
C_C5 2 REF 0.8837588537091pf
C_C6 2 3 0.0994974705481pf
C_C7 3 REF 0.3766665592692pf
C_C8 3 4 3.0414708433097pf
C_C9 4 REF 0.3765872653098pf
R_R1 1 2 898.74555990592
L_L1 3 5 1.3087079794538nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_4 1 2 3 4 REF
C_C1 1 REF 0.2631490058414pf
C_C2 1 2 14.905167427921pf
C_C3 1 3 0.015146998591pf
C_C4 1 4 0.1984408606158pf
C_C5 2 REF 0.7143455126481pf
C_C6 2 3 0.1006025943129pf
C_C7 3 REF 0.3770266452221pf
C_C8 3 4 2.1182122228072pf
C_C9 4 REF 0.3753438028185pf
R_R1 1 2 983.95133936454
L_L1 3 5 1.3100215913921nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_5 1 2 3 4 REF
C_C1 1 REF 0.2486882274009pf
C_C2 1 2 15.414497365606pf
C_C3 1 3 0.0135819683433pf
C_C4 1 4 0.2047636579023pf
C_C5 2 REF 0.6076512780722pf
C_C6 2 3 0.1018690137502pf
C_C7 3 REF 0.3773494414336pf
C_C8 3 4 1.5063772711721pf
C_C9 4 REF 0.3743437716588pf
L_L1 3 5 1.311083562164nh
R_RL1 5 4 -1.669417384e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_6 1 2 3 4 REF
C_C1 1 REF 0.246462581182pf
C_C2 1 2 15.983887412763pf
C_C3 1 3 0.0118694443765pf
C_C4 1 4 0.21191523045pf
C_C5 2 REF 0.5398281218224pf
C_C6 2 3 0.1033078862017pf
C_C7 3 REF 0.3776519096359pf
C_C8 3 4 1.0865781338347pf
C_C9 4 REF 0.3735840534547pf
L_L1 3 5 1.3119565366877nh
R_RL1 5 4 -2.589338149e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_7 1 2 3 4 REF
C_C1 1 REF 0.251322973153pf
C_C2 1 2 16.73388606338pf
C_C3 1 4 0.2213024209955pf
C_C4 2 REF 0.4916888214973pf
C_C5 2 3 0.1052419084264pf
C_C6 3 REF 0.3779908185485pf
C_C7 3 4 0.7508895436115pf
C_C8 4 REF 0.3729742438819pf
L_L1 3 5 1.31278043672nh
R_RL1 5 4 -3.477787651e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_8 1 2 3 4 REF
C_C1 1 REF 0.2602678584034pf
C_C2 1 2 17.696658561874pf
C_C3 1 4 0.233215295543pf
C_C4 2 REF 0.4613320074759pf
C_C5 2 3 0.1077956829376pf
C_C6 3 REF 0.3783555554147pf
C_C7 3 4 0.4916912202657pf
C_C8 4 REF 0.3725687215635pf
L_L1 3 5 1.3135584904304nh
R_RL1 5 4 -4.289967289e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_9 1 2 3 4 REF
C_C1 1 REF 0.2702956417267pf
C_C2 1 2 18.941149510306pf
C_C3 1 4 0.2483530079828pf
C_C4 2 REF 0.4473438369874pf
C_C5 2 3 0.1112325277791pf
C_C6 3 REF 0.3787206285595pf
C_C7 3 4 0.2999197870067pf
C_C8 4 REF 0.372395275526pf
L_L1 3 5 1.3142497315581nh
R_RL1 5 4 -4.913642387e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_10 1 2 3 4 REF
C_C1 1 REF 0.278127623722pf
C_C2 1 2 20.530262407435pf
C_C3 1 4 0.2673083653495pf
C_C4 2 REF 0.4473371874968pf
C_C5 2 3 0.1158338604855pf
C_C6 3 REF 0.3790375294986pf
C_C7 3 4 0.1603992700729pf
C_C8 4 REF 0.3724237327563pf
L_L1 1 5 91.311164120494nh
R_RL1 5 2 12.859587787114
L_L2 3 6 1.314858752865nh
R_RL2 6 4 -5.287707028e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_11 1 2 3 4 REF
C_C1 1 REF 0.2803859701954pf
C_C2 1 2 22.601091413127pf
C_C3 1 4 0.2914674333821pf
C_C4 2 REF 0.4606826605016pf
C_C5 2 3 0.1221547603843pf
C_C6 3 REF 0.379243493631pf
C_C7 3 4 0.0616921833638pf
C_C8 4 REF 0.3726095534356pf
L_L1 1 5 57.653854645471nh
R_RL1 5 2 6.8600031096963
L_L2 3 6 1.3153446664397nh
R_RL2 6 4 -5.315250081e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_12 1 2 3 4 REF
C_C1 1 REF 0.2739958681538pf
C_C2 1 2 25.320513661919pf
C_C3 1 4 0.3224951761837pf
C_C4 2 REF 0.4867699786085pf
C_C5 2 3 0.1308727726902pf
C_C6 3 REF 0.3792838732389pf
C_C7 4 REF 0.3728934399868pf
L_L1 1 5 36.27597791519nh
R_RL1 5 2 3.503121615687
L_L2 3 6 1.3156676764413nh
R_RL2 6 4 -4.949968923e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_13 1 2 3 4 REF
C_C1 1 REF 0.255195325445pf
C_C2 1 2 29.047912332286pf
C_C3 1 4 0.3641076419752pf
C_C4 2 REF 0.5269899379128pf
C_C5 2 3 0.1433485447719pf
C_C6 3 REF 0.3791127392164pf
C_C7 4 REF 0.3732431216847pf
L_L1 1 5 22.550104290313nh
R_RL1 5 2 1.926409356761
L_L2 3 6 1.3154465971979nh
R_RL2 6 4 -4.15521431e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_14 1 2 3 4 REF
C_C1 1 REF 0.2200420038444pf
C_C2 1 2 34.337892706839pf
C_C3 1 4 0.4221110122218pf
C_C4 2 REF 0.5834645834889pf
C_C5 2 3 0.1616260039841pf
C_C6 3 REF 0.3787161618167pf
C_C7 4 REF 0.3736573248555pf
L_L1 1 5 13.65186042104nh
R_RL1 5 2 1.5203402457928
L_L2 3 6 1.3150663435106nh
R_RL2 6 4 -2.943998379e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_15 1 2 3 4 REF
C_C1 1 REF 0.1604985379414pf
C_C2 1 2 42.44595512569pf
C_C3 1 4 0.5098320016828pf
C_C4 2 REF 0.6630956199104pf
C_C5 2 3 0.1902417288796pf
C_C6 3 REF 0.3780785518577pf
C_C7 4 REF 0.3741998902178pf
R_R1 1 2 -821.9457667057
L_L1 1 5 8.1936920322699nh
R_RL1 5 2 3.4877282403759
L_L2 3 6 1.3144094489391nh
R_RL2 6 4 -1.256640826e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_16 1 2 3 4 REF
C_C1 1 REF 0.0519744393605pf
C_C2 1 2 57.110264984867pf
C_C3 1 4 0.6672419365885pf
C_C4 2 REF 0.7906064598439pf
C_C5 2 3 0.2425811253442pf
C_C6 3 REF 0.3771108988646pf
C_C7 4 REF 0.3751160286324pf
R_R1 1 2 -579.6575015716
L_L1 1 5 4.4515507663192nh
R_RL1 5 2 -0.43565960236
L_L2 3 6 1.3132098821982nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_17 1 2 3 4 REF
C_C1 1 2 88.843190765781pf
C_C2 1 4 1.0068316962699pf
C_C3 2 REF 1.0345700013496pf
C_C4 2 3 0.3562540450876pf
C_C5 3 REF 0.375597480709pf
C_C6 4 REF 0.3771444910365pf
R_R1 1 2 -361.4352152926
L_L1 1 5 1.8103681066134nh
R_RL1 5 2 0.0581090876702
L_L2 1 6 77.115028983552nh
R_RL2 6 3 0.014336119239
L_L3 1 7 76.360016366781nh
R_RL3 7 4 0.0147017569255
L_L4 2 8 77.179091348195nh
R_RL4 8 3 0.006191282884
L_L5 2 9 76.426724591017nh
R_RL5 9 4 0.0061003123222
L_L6 3 10 1.3106600637442nh
R_RL6 10 4 2.7526765312e-5
Kn_K1 L_L1 L_L2 0.07389879014
Kn_K2 L_L1 L_L3 0.0741507125053
Kn_K3 L_L1 L_L4 -0.079287744636
Kn_K4 L_L1 L_L5 -0.07978952305
Kn_K5 L_L2 L_L3 0.9914721069863
Kn_K6 L_L2 L_L4 0.9882668570939
Kn_K7 L_L2 L_L5 0.9796657095614
Kn_K8 L_L2 L_L6 -0.102734654282
Kn_K9 L_L3 L_L4 0.9797039207098
Kn_K10 L_L3 L_L5 0.9881511071898
Kn_K11 L_L3 L_L6 0.027770985258
Kn_K12 L_L4 L_L5 0.9914792731958
Kn_K13 L_L4 L_L6 -0.102560472891
Kn_K14 L_L5 L_L6 0.0278910438459
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_18 1 2 3 4 REF
C_C1 1 2 186.25883653893pf
C_C2 1 4 2.0494309621505pf
C_C3 2 REF 1.7229405837067pf
C_C4 2 3 0.7049242363611pf
C_C5 3 REF 0.3724106494005pf
C_C6 4 REF 0.3838137607184pf
R_R1 1 2 -224.310822914
L_L1 1 5 80.092679472717nh
R_RL1 5 REF -1.01058685864
L_L2 1 6 0.5870305637031nh
R_RL2 6 2 0.0142764051362
L_L3 1 7 28.832393438266nh
R_RL3 7 3 0.0100394051569
L_L4 1 8 28.133212367816nh
R_RL4 8 4 0.0102398350236
L_L5 2 9 79.543303352982nh
R_RL5 9 REF -1.103541337595
L_L6 2 10 28.916057956048nh
R_RL6 10 3 0.001499914021
L_L7 2 11 28.220602664398nh
R_RL7 11 4 0.0015008643626
L_L8 3 12 1.30297052511nh
R_RL8 12 4 4.634508194e-5
Kn_K1 L_L1 L_L2 0.0828661220599
Kn_K2 L_L1 L_L5 0.996328592706
Kn_K3 L_L2 L_L3 0.0611763014424
Kn_K4 L_L2 L_L4 0.0614734259465
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.081394531148
Kn_K7 L_L2 L_L7 -0.082849043815
Kn_K8 L_L3 L_L4 0.9772006741221
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9898357348124
Kn_K11 L_L3 L_L7 0.9668631724467
Kn_K12 L_L3 L_L8 -0.163327501443
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9670270811645
Kn_K15 L_L4 L_L7 0.9895843163566
Kn_K16 L_L4 L_L8 0.0498630190327
Kn_K17 L_L6 L_L7 0.9772679378969
Kn_K18 L_L6 L_L8 -0.162787553702
Kn_K19 L_L7 L_L8 0.0500929650658
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_19 1 2 3 4 REF
C_C1 1 2 1134.8179719198pf
C_C2 1 4 12.212761563683pf
C_C3 2 REF 8.2032341479058pf
C_C4 2 3 4.0933718315831pf
C_C5 3 REF 0.3485098268312pf
C_C6 4 REF 0.4524622708298pf
R_R1 1 REF -502.5969995331
R_R2 1 2 16.356511091489
R_R3 2 REF 495.62520289911
L_L1 1 5 7.9077920315591nh
R_RL1 5 REF -0.02249680397
L_L2 1 6 0.0655315942049nh
R_RL2 6 2 -3.739242474e-3
L_L3 1 7 4.3214166367188nh
R_RL3 7 3 -1.04997305e-3
L_L4 1 8 3.6934243080992nh
R_RL4 8 4 -1.432429156e-3
L_L5 2 9 7.8655354938391nh
R_RL5 9 REF -0.051145565027
L_L6 2 10 4.3360691976839nh
R_RL6 10 3 -5.530391741e-4
L_L7 2 11 3.712808246596nh
R_RL7 11 4 -3.535264021e-4
L_L8 3 12 12.156891362999nh
R_RL8 12 REF -0.046448001487
L_L9 3 13 1.2305569868697nh
R_RL9 13 4 3.0077065457e-5
L_L10 4 14 11.521735761194nh
R_RL10 14 REF -0.048052215007
Kn_K1 L_L1 L_L2 0.0748665746332
Kn_K2 L_L1 L_L5 0.9958489908613
Kn_K3 L_L1 L_L8 0.8028343967073
Kn_K4 L_L1 L_L10 0.8242911408128
Kn_K5 L_L2 L_L3 0.0478046803439
Kn_K6 L_L2 L_L4 0.046900738369
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.075211646007
Kn_K9 L_L2 L_L7 -0.086075690656
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8490755793468
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9924320651796
Kn_K15 L_L3 L_L7 0.8405052041997
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.402976906456
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8418739907855
Kn_K21 L_L4 L_L7 0.9911552261205
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1413214852855
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8020781800753
Kn_K26 L_L5 L_L10 0.823264848693
Kn_K27 L_L6 L_L7 0.8496656305176
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.40127131673
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1420588600069
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2411862877398
Kn_K35 L_L8 L_L10 0.9483721492419
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_20 1 2 3 4 REF
C_C1 1 REF 12.830761797766pf
C_C2 1 3 6.5820272785917pf
C_C3 2 4 19.605673310873pf
C_C4 3 REF 0.4198631052659pf
C_C5 4 REF 0.2357162771312pf
R_R1 1 REF 369.77694741035
R_R2 1 2 -254.1710245733
R_R3 2 REF -371.5245062272
L_L1 1 5 4.0528966194786nh
R_RL1 5 REF -2.246113548e-3
L_L2 1 6 0.4466091071228nh
R_RL2 6 2 0.054949538456
L_L3 1 7 2.6992497830076nh
R_RL3 7 3 0.0183704706193
L_L4 1 8 2.1895030138403nh
R_RL4 8 4 0.0281960355136
L_L5 2 9 4.4832905619699nh
R_RL5 9 REF 0.2337994000934
L_L6 2 10 2.5686285978435nh
R_RL6 10 3 0.0092094317443
L_L7 2 11 1.9646287408586nh
R_RL7 11 4 0.0041169935755
L_L8 3 12 6.7601899459922nh
R_RL8 12 REF 0.1347627372285
L_L9 3 13 1.1634831709971nh
R_RL9 13 4 0.0010457772397
L_L10 4 14 6.2607337130131nh
R_RL10 14 REF 0.1664272889609
Kn_K1 L_L1 L_L5 0.9488873763634
Kn_K2 L_L1 L_L8 0.7750577427008
Kn_K3 L_L1 L_L10 0.8064015354993
Kn_K4 L_L2 L_L3 0.2628656229117
Kn_K5 L_L2 L_L4 0.3395226181237
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.147511555634
Kn_K8 L_L2 L_L7 -0.118358620774
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.065376512723
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.766184575125
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9155017906206
Kn_K15 L_L3 L_L7 0.6835155044343
Kn_K16 L_L3 L_L8 0.9497193455786
Kn_K17 L_L3 L_L9 -0.472089173622
Kn_K18 L_L3 L_L10 0.988126556738
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.6438507540256
Kn_K21 L_L4 L_L7 0.8938009187199
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.2047952342635
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0429834060078
Kn_K26 L_L5 L_L7 0.0315357908616
Kn_K27 L_L5 L_L8 0.7878693057958
Kn_K28 L_L5 L_L9 -0.022887009983
Kn_K29 L_L5 L_L10 0.8285592316125
Kn_K30 L_L6 L_L7 0.7500321811032
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.511204357271
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1850277397041
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.2964742138925
Kn_K38 L_L8 L_L10 0.911315784087
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_21 1 2 3 4 REF
C_C1 1 2 289.15547819215pf
C_C2 1 4 3.1392858236598pf
C_C3 2 REF 2.4210940149544pf
C_C4 2 3 1.0779025093351pf
C_C5 3 REF 0.3682297782829pf
C_C6 4 REF 0.38913127802pf
R_R1 1 2 -37.40719718082
L_L1 1 5 25.70364475485nh
R_RL1 5 REF -0.360647888987
L_L2 1 6 0.1230476246054nh
R_RL2 6 2 0.0109646952017
L_L3 1 7 10.807628650422nh
R_RL3 7 3 0.0098362030191
L_L4 1 8 10.136112317577nh
R_RL4 8 4 0.0101664091766
L_L5 2 9 25.476684269417nh
R_RL5 9 REF -0.473814353206
L_L6 2 10 10.880980260737nh
R_RL6 10 3 1.4544162155e-4
L_L7 2 11 10.217205720556nh
R_RL7 11 4 1.34486247e-4
L_L8 3 12 36.305668910303nh
R_RL8 12 REF -0.462603884238
L_L9 3 13 1.2808931964413nh
R_RL9 13 4 3.2465999944e-5
L_L10 4 14 35.624469567714nh
R_RL10 14 REF -0.464824018268
Kn_K1 L_L1 L_L2 0.0984043143347
Kn_K2 L_L1 L_L5 0.9976056114068
Kn_K3 L_L1 L_L8 0.838049519415
Kn_K4 L_L1 L_L10 0.8458640356256
Kn_K5 L_L2 L_L3 0.0215471452468
Kn_K6 L_L2 L_L4 0.0187833628513
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.084867061999
Kn_K9 L_L2 L_L7 -0.091032740014
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9393241910821
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9943323110784
Kn_K15 L_L3 L_L7 0.9332244684476
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.262373069796
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.93415526861
Kn_K21 L_L4 L_L7 0.9939623087723
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0845597711539
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8368369093073
Kn_K26 L_L5 L_L10 0.8445106867843
Kn_K27 L_L6 L_L7 0.939754145045
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.260450348386
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.085293542399
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1438619059888
Kn_K35 L_L8 L_L10 0.9822365857801
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_22 1 2 3 4 REF
C_C1 1 REF 0.0230429198177pf
C_C2 1 2 62.150825141152pf
C_C3 1 4 0.7044263637989pf
C_C4 2 REF 0.8549159283482pf
C_C5 2 3 0.2669256227582pf
C_C6 3 REF 0.3735372954033pf
C_C7 4 REF 0.3718015372412pf
R_R1 1 2 -235.904832427
L_L1 1 5 0.5199946307274nh
R_RL1 5 2 0.2458698024406
L_L2 1 6 46.514825835859nh
R_RL2 6 3 0.0499629885296
L_L3 1 7 45.729221916736nh
R_RL3 7 4 0.050253331255
L_L4 2 8 47.036931944549nh
R_RL4 8 3 0.1741116448983
L_L5 2 9 46.258160016444nh
R_RL5 9 4 0.1703225915446
L_L6 3 10 1.3038782225504nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.10535636677
Kn_K2 L_L1 L_L5 -0.106936024562
Kn_K3 L_L2 L_L3 0.985900662085
Kn_K4 L_L2 L_L4 0.9944571241886
Kn_K5 L_L2 L_L5 0.9802705843115
Kn_K6 L_L2 L_L6 -0.134151166235
Kn_K7 L_L3 L_L4 0.9805101032035
Kn_K8 L_L3 L_L5 0.9943635480087
Kn_K9 L_L3 L_L6 0.0335594055258
Kn_K10 L_L4 L_L5 0.9860585043446
Kn_K11 L_L4 L_L6 -0.132968361528
Kn_K12 L_L5 L_L6 0.033806836684
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_23 1 2 3 4 REF
C_C1 1 REF 0.2936451734433pf
C_C2 1 2 24.072349383851pf
C_C3 1 4 0.2965423813832pf
C_C4 2 REF 0.5922836179765pf
C_C5 2 3 0.129147365133pf
C_C6 3 REF 0.373910948992pf
C_C7 4 REF 0.3682033954407pf
R_R1 1 2 -686.1155988714
L_L1 1 5 0.8180769111499nh
R_RL1 5 2 0.302097845145
L_L2 3 6 1.307888260556nh
R_RL2 6 4 -4.841873806e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_24 1 2 3 4 REF
C_C1 1 REF 0.3785604222547pf
C_C2 1 2 11.879418457208pf
C_C3 1 3 0.0456110740926pf
C_C4 1 4 0.168653148322pf
C_C5 2 REF 0.5258944944936pf
C_C6 2 3 0.0825143260463pf
C_C7 3 REF 0.3727173733738pf
C_C8 4 REF 0.3658532298943pf
L_L1 1 5 1.2143472862337nh
R_RL1 5 2 0.1000232014751
L_L2 3 6 1.3061017087225nh
R_RL2 6 4 -4.963682636e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_25 1 2 3 4 REF
C_C1 1 REF 0.4149130579929pf
C_C2 1 2 7.2161649358287pf
C_C3 1 3 0.0688518057755pf
C_C4 1 4 0.1188714229274pf
C_C5 2 REF 0.509509136263pf
C_C6 2 3 0.0629707323119pf
C_C7 2 4 0.0225517426061pf
C_C8 3 REF 0.3709402291662pf
C_C9 4 REF 0.3635238797017pf
L_L1 1 5 1.7240213707739nh
R_RL1 5 2 1.5159227252e-4
L_L2 3 6 1.3037494919806nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_26 1 2 3 4 REF
C_C1 1 REF 0.430813843766pf
C_C2 1 2 5.8147993959977pf
C_C3 1 3 0.078805063771pf
C_C4 1 4 0.1021538712526pf
C_C5 2 REF 0.5060724023003pf
C_C6 2 3 0.0556772688677pf
C_C7 2 4 0.042069005568pf
C_C8 3 REF 0.3697558032841pf
C_C9 4 REF 0.3620351371513pf
L_L1 1 5 1.8578603602093nh
R_RL1 5 2 1.0043201166e-4
L_L2 3 6 1.3027162642546nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param34_26

